US07342080B2
To a 100-mL round-bottom flask, equipped with a magnetic stirbar, was charged 9.92 g (165 mmol) of AM-5. Next, 20 g (16.5 mmol) of FC-1 was added to the flask at room temperature over about 1 hour. After stirring for one additional hour, volatiles were removed at temperatures up to 130° C. at 2.5 mm pressure to provide FC-1/AM-5, nominal molecular weight=1239.1 g/mol.

reactant | AM-5 | 165 mmol, 9.92 g | CC1=CC(=O)C(=C(O1)C(=O)NCC2=CC=C(C=C2)C3=CC=C(C=C3)C#N)O | C21H16N2O4
reactant | FC-1 | 16.5 mmol, 20 g | CN1C2CCC1CC(C2)OC(C3=CC=CC=C3)C4=CC=C(C=C4)Cl.Cl
product | FC-1 AM-5 | CN1C2CCC1CC(C2)OC(C3=CC=CC=C3)C4=CC=C(C=C4)Cl.Cl.CC1=CC(=O)C(=C(O1)C(=O)NCC2=CC=C(C=C2)C3=CC=C(C=C3)C#N)O | InChI=1S/C21H24ClNO.C21H16N2O4.ClH/c1-23-18-11-12-19(23)14-20(13-18)24-21(15-5-3-2-4-6-15)16-7-9-17(22)10-8-16;1-13-10-18(24)19(25)20(27-13)21(26)23-12-15-4-8-17(9-5-15)16-6-2-14(11-22)3-7-16;/h2-10,18-21H,11-14H2,1H3;2-10,25H,12H2,1H3,(H,23,26);1H
